US08445510B2
(2S)-3-[5-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propane-1,2-diol
To a solution of (S)-3-(4-Iodo-5-methylpyrazol-1-yl)-propane-1,2-diol (20.0 mg, 0.0709 mmol) in THF (1 mL, 10 mmol) was added 2 M isopropylmagnesium chloride in THF (0.18 mL, 0.36 mmol) at 0° C., and the reaction was allowed to warm to rt over 30 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.070 mL, 0.43 mmol) was then added, and the mixture was stirred at rt for 30 min. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a clear oil. It was used in the Suzuki coupling without further purification.

reactant | (S)-3-(4-Iodo-5-methylpyrazol-1-yl)-propane-1,2-diol | 0.0709 mmol, 20.0 mg | IC=1C=NN(C1C)C[C@@H](CO)O | C7H11IN2O2
reactant | THF | 10 mmol, 1 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 0.36 mmol, 0.18 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.43 mmol, 0.070 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | (2S)-3-[5-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propane-1,2-diol | CC1=C(C=NN1C[C@@H](CO)O)B1OC(C(O1)(C)C)(C)C | C13H23BN2O4
